US05808038
1,2-Bis(2-pyridyltriazeno)ethane
A solution of butyllithium in hexane (5 ml., 2.5M) was dissolved in 10 ml. of tetrahydrofuran and cooled to -78° C. To this was added dropwise with stirring a solution of 1.98 g (12.5 mmoles) of 2-bromopyridine in 10 ml. of tetrahydrofuran. The dark yellow solution of the pyridine anion was mixed with a solution of 0.70 g (6.2 mmoles) of 1,2-diazidoethane in 10 ml. of tetrahydrofuran at -78° C. After 1 hr. of stirring the dark green solution was treated with 10 ml. of ammonium buffer. The color changed to yellow. The organic solvent was removed in vacuo, and the precipitate was isolated by filtration and washed with copious quantities of diethylether. The powdery material was finally dried under high vacuum. The yield was 770 mg. This material was not soluble in most solvents, except dimethylsulfoxide. It did not have a sharp melting point since decomposition began before it was reached (rapid above 100° C.). The spectra, however, were fully consistent with the structure.

reactant | butyllithium | C(CCC)[Li]
reactant | 2-bromopyridine | 12.5 mmoles, 1.98 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | 1,2-diazidoethane | 6.2 mmoles, 0.70 g | N(=[N+]=[N-])CCN=[N+]=[N-] | C2H4N6
reactant | ammonium | [NH4+]
reactant | hexane | 2.5M, 5 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1,2-Bis(2-pyridyltriazeno)ethane | N1=C(C=CC=C1)NN=NCCN=NNC1=NC=CC=C1 | C12H14N8
